US07332510B2
2-Chloro-4-[1-(4-chloro-phenyl)-2-methyl-1H-imidazol-4-ylethynyl]-pyridine
2-Chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine (150 mg, 0.69 mmol) was dissolved in 30 mL dichloromethane. Powdered molecular sieves (3 A, 200 mg), 4-chlorobenzene boronic acid (216 mg, 1.38 mmol) and [Cu(OH)TMEDA]2Cl2 (113 mg, 0.24 mmol) were added. Oxygen was bubbled through the reaction mixture for 5 minutes and stirring was continued at room temperature overnight. The reaction mixture was filtered through a dicalite speed plus pad and washed with 50 mL dichloromethane. The filtrate was washed with 50 ml water, dried with magnesium sulfate, filtered and evaporated. The crude product was purified by flash chromatography on silica gel (heptane/ethylacetate 100:0→3:2 gradient) and by recrystallization from diisopropylether. The desired compound was obtained as a white solid (42 mg, 19%), MS: m/e=329.2 (M+H+).

reactant | 2-Chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | 0.69 mmol, 150 mg | ClC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C11H8ClN3
reactant | 4-chlorobenzene boronic acid | 1.38 mmol, 216 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-Chloro-4-[1-(4-chloro-phenyl)-2-methyl-1H-imidazol-4-ylethynyl]-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)C1=CC=C(C=C1)Cl)C | C17H11Cl2N3
